US05849772
(S)-2-(2,4-Dichlorophenyl)-1,3-propanediol Monocarbamate
The title compound was synthesized in a similar manner to that of Example XXII, except that (S)-3-acetoxy-2-(2,4-dichlorophenyl)propanol carbamate, instead of (S)-3-acetoxy-2-phenylpropanol carbamate, was used as a starting material. Yield 78.9%. Purity 99.7%.

reactant | (S)-3-acetoxy-2-(2,4-dichlorophenyl)propanol carbamate | C(N)(=O)OC[C@H](COC(C)=O)C1=C(C=C(C=C1)Cl)Cl | C12H13Cl2NO4
reactant | (S)-3-acetoxy-2-phenylpropanol carbamate | C(N)(=O)OC[C@H](COC(C)=O)C1=CC=CC=C1 | C12H15NO4
product | (S)-2-(2,4-Dichlorophenyl)-1,3-propanediol Monocarbamate | Yield 78.9% | C(N)(=O)OC[C@H](CO)C1=C(C=C(C=C1)Cl)Cl | C10H11Cl2NO3
